US08703805B2
Preparation of 2-[5-(2-chlorophenyl)-1-(3′-methanesulfonyl-biphenyl-4-yl)-1H-pyrazol-3-yl]-1,1,1,3,3,3-hexafluoro-propan-2-ol
A mixture of 2-[1-(4-bromophenyl)-5-(2-chlorophenyl)-1H-pyrazol-3-yl]-1,1,1,3,3,3-hexafluoro-propan-2-ol (100 mg, 020 mmol), 3-methanesulfonyl-phenylboronic acid (48 mg, 0.24 mmol), K2CO3 (83 mg, 0.60 mmol), Cl2Pd(dppf).DCM (16 mg, 10 mol %) and H2O (0.2 mL) in dioxane (2 mL) was sparged with Argon for 5 min and then heated at 80° C. as a sealed flask. After 3 h the reaction mixture was allowed to cool to ambient temperature, filtered (Celite™) and the filter agent rinsed with EtOAc. The combined filtrates were concentrated under reduced pressure and purified by chromatography (silica, EtOAc/Hex, 0:100 to 50:50) to give the title compound (94 mg, 82%) as a white solid. 1H-NMR (DCM-d2): δ 8.12 (m, 1H), 7.92 (m, 1H), 7.87 (m, 1H), 7.67 (m, 1H), 7.61 (d, 2H), 7.33-7.47 (m, 6H), 6.74 (s, 1H), 5.25 (s, 1H), 3.07 (s, 3H); MS(ES): 575 [M+H]+.

reactant | 2-[1-(4-bromophenyl)-5-(2-chlorophenyl)-1H-pyrazol-3-yl]-1,1,1,3,3,3-hexafluoro-propan-2-ol | 100 mg | BrC1=CC=C(C=C1)N1N=C(C=C1C1=C(C=CC=C1)Cl)C(C(F)(F)F)(C(F)(F)F)O | C18H10BrClF6N2O
reactant | 3-methanesulfonyl-phenylboronic acid | 0.24 mmol, 48 mg | CS(=O)(=O)C=1C=C(C=CC1)B(O)O | C7H9BO4S
reactant | K2CO3 | 0.60 mmol, 83 mg | C(=O)([O-])[O-].[K+].[K+]
product | 2-[5-(2-chlorophenyl)-1-(3′-methanesulfonyl-biphenyl-4-yl)-1H-pyrazol-3-yl]-1,1,1,3,3,3-hexafluoro-propan-2-ol | 94 mg, 82% | ClC1=C(C=CC=C1)C1=CC(=NN1C1=CC=C(C=C1)C1=CC(=CC=C1)S(=O)(=O)C)C(C(F)(F)F)(C(F)(F)F)O | C25H17ClF6N2O3S
